US08895753B2
(1) 2-isobutyl-5-nitrobenzonitrile
Under an argon gas atmosphere, 2-bromo-5-nitrobenzonitrile (2.0 g), isobutylboronic acid (988 mg), cesium carbonate (5.7 g), and PdCl2 (dppf)-CH2Cl2 (720 mg) were dissolved in toluene (25 ml) and water (1 ml). The mixture was stirred at 100° C. for 18 hours. After the mixture was cooled to room temperature, the mixture was diluted with diethyl ether and water followed by the step of extraction/separation. The organic layer was washed with 1 N-hydrochloric acid, 5 N-sodium hydroxide aqueous solution and saturated brine, and dried over anhydrous magnesium sulfate. After the solvent was evaporated under reduced pressure, the resulting residue was purified on column chromatography (EtOAc:hexane=1:3) to obtain the title compound (1.06 g) as a pale yellow oily substance.

reactant | 2-bromo-5-nitrobenzonitrile | 2.0 g | BrC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3BrN2O2
reactant | isobutylboronic acid | 988 mg | C(C(C)C)B(O)O | C4H11BO2
reactant | cesium carbonate | 5.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 ml | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-isobutyl-5-nitrobenzonitrile | 1.06 g | C(C(C)C)C1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C11H12N2O2
